US05220042
1.53 Grams of 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)benzene] was dissolved in a mixed solvent of 40 ml of tetrahydrofuran with 4 ml of hexamethylphosphoric triamide, to this solution was added 0.79 ml of N,N,N',N'-tetramethylethylenediamine, then this mixture was cooled to -78° C. on a dry ice-acetone mixture bath. 3.49 Milliliters of n-butyllithium (1.6 M, n-hexane solution) was added dropwise to the reaction mixture and stirred for 30 minutes. Next, 15 ml of tetrahydrofuran solution containing 1.18 g of N-iodosuccinimide was added dropwise and the reaction mixture was stirred overnight. The solvent was removed under reduced pressure, and the residue obtained was extracted twice with 100 ml of diethyl ether, and the diethyl ether layer was washed twice with 100 ml of water, and washed twice with 100 ml of a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate. The dried diethyl ether extract was concentrated under reduced pressure, the residue obtained was purified by means of a separative thin layer chromatography (thickness: 2 mm, adsorbent: Merk 5717 silica gel, developing solvent: ethyl acetate-dichloromethane (1:9). There were obtained 685 mg of 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-iodophenyl]pentane, as well as 575 mg of 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)-5-iodobenzene].

reactant | 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)benzene] | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C29H44O12
reactant | N,N,N',N'-tetramethylethylenediamine | 0.79 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | N-iodosuccinimide | 1.18 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 4 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-iodophenyl]pentane | 685 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)I)OCOC)OC | C29H43IO12
